US08202857B2
To a solution of (S)-1-(4-bromo-phenyl)-ethyl amine (3.58 g, 0.018 mol) in dry CH3CN (350 mL) was added 3-((1S)-1-(4-bromophenyl)ethyl)-7-(2-methylallyl)-7-phenyl-1,3-oxazepan-2-one (4.2 g, 0.018 mol), KI (3.19 g, 0.019 mol), and K2CO3 (3.73 g, 0.027 mol). The mixture was stirred at reflux overnight, filtered, and concentrated to give the crude product, which was purified by column chromatography to give 7-((1S)-1-(4-bromophenyl)ethylamino)-2-methyl-4-phenylhept-1-en-4-ol (2.2 g, 30%) as an oil.

reactant | (S)-1-(4-bromo-phenyl)-ethyl amine | 0.018 mol, 3.58 g | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
reactant | 3-((1S)-1-(4-bromophenyl)ethyl)-7-(2-methylallyl)-7-phenyl-1,3-oxazepan-2-one | 0.018 mol, 4.2 g | BrC1=CC=C(C=C1)[C@H](C)N1C(OC(CCC1)(C1=CC=CC=C1)CC(=C)C)=O | C23H26BrNO2
reactant | K2CO3 | 0.027 mol, 3.73 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 350 mL | CC#N | C2H3N
product | 7-((1S)-1-(4-bromophenyl)ethylamino)-2-methyl-4-phenylhept-1-en-4-ol | 2.2 g, 30% | BrC1=CC=C(C=C1)[C@H](C)NCCCC(CC(=C)C)(O)C1=CC=CC=C1 | C22H28BrNO
